US04517202
A solution of (E)-6-acetoxy-2-[(mixture of 3α and 3β)-tert-butyldimethylsilyloxyoct-1-enyl]bicyclo[3,3,0]octane (530 mg; prepared as described in Reference Example 24 and predominantly in the 2β-configuration) in methanol (10 ml) was treated with anhydrous potassium carbonate (193 mg). The mixture was heated at 40° C., with stirring, for 24 hours. The methanol was then removed in vacuo and the residue was extracted with dichloromethane (3×10 ml). Concentration of the extract in vacuo gave (E)-2-[(mixture of 3α and 3β)-tert-butyldimethylsilyloxyoct-1-enyl]-6-hydroxybicyclo[3,3,0]octane (430 mg), predominantly in the 2β-configuration.

reactant | bicyclo[3,3,0]octane | C12CCCC2CCC1 | C8H14
reactant | potassium carbonate | 193 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 ml | CO | CH4O
product | 6-hydroxybicyclo[3,3,0]octane | 430 mg | OC1C2CCCC2CC1 | C8H14O
